US04233318
To a solution of 3.14 grams (0.02 mole) of heptyl isothiocyanate dissolved in 15 milliliters of benzene was added 1.46 grams (0.02 mole) of diethylamine. The temperature rose to about 50° C. The mixture was refluxed on a steam bath for 20 minutes until a neutral pH was obtained. The mixture was then evaporated under vacuum to give 4.8 grams of n-heptyl-diethyl-thiourea. To this product, 4.1 grams (0.02 mole) of bromoethylamine hydrobromide and 25 milliliters of ethanol 2B was added. The mixture was refluxed on a steam bath for four hours and then permitted to stand overnight at ambient temperature. The mixture was then refluxed an additional three hours. The mixture was evaporated under vacuum to yield 8.83 grams of a yellow gel-like liquid, ND30 =1.5410. The structure of the product was confirmed by NMR.

reactant | heptyl isothiocyanate | 0.02 mole, 3.14 grams | C(CCCCCC)N=C=S | C8H15NS
reactant | diethylamine | 0.02 mole, 1.46 grams | C(C)NCC | C4H11N
reactant | benzene | 15 milliliters | C1=CC=CC=C1 | C6H6
product | n-heptyl-diethyl-thiourea | 4.8 grams | C(CCCCCC)N(C(=S)NCC)CC | C12H26N2S
